US06235680B1
3b. 2-Methoxy-N-[4-(2-methoxybenzoylsulfamoyl)phenyl]acetamide
8 g (33 mmol) of 2-methoxy-N-(4-sulfamoylphenyl)acetamide are introduced into 160 ml of acetonitrile at 0° C., and 6.63 g (66 mmol) of triethylamine and a catalytic amount of DMAP are added. 5.6 g (33 mmol) of 2-methoxybenzoyl chloride—dissolved in 20 ml of acetonitrile—are subsequently added at 0° C., and stirring is continued for 2 hours at this temperature. After a further 2 hours at room temperature, the mixture is transferred into water and the precipitate is filtered off with suction;

reactant | 2-methoxy-N-(4-sulfamoylphenyl)acetamide | 33 mmol, 8 g | COCC(=O)NC1=CC=C(C=C1)S(N)(=O)=O | C9H12N2O4S
reactant | triethylamine | 66 mmol, 6.63 g | C(C)N(CC)CC | C6H15N
reactant | 2-methoxybenzoyl chloride | 33 mmol, 5.6 g | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
reactant | water | O | H2O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 160 ml | C(C)#N | C2H3N
product | 2-Methoxy-N-[4-(2-methoxybenzoylsulfamoyl)phenyl]acetamide | COCC(=O)NC1=CC=C(C=C1)S(NC(C1=C(C=CC=C1)OC)=O)(=O)=O | C17H18N2O6S
